US07737149B2
4.0M HCl in dioxane (42.7 mL, 170.78 mmol) was added to a stirred solution of tert-butyl 4-cyclopropylpiperazine-1-carboxylate (7.73 g, 34.16 mmol) in a mixture of methanol (50.0 mL) and ethyl acetate (200 mL). The resulting suspension was stirred at room temperature for 24 h under nitrogen. The white solid filtered off to give 1-cyclopropylpiperazine dihydrochloride (6.30 g, 93%).

reactant | HCl | 4.0M | Cl | ClH
reactant | dioxane | 170.78 mmol, 42.7 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl 4-cyclopropylpiperazine-1-carboxylate | 34.16 mmol, 7.73 g | C1(CC1)N1CCN(CC1)C(=O)OC(C)(C)C | C12H22N2O2
solvent | methanol | 50.0 mL | CO | CH4O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 1-cyclopropylpiperazine dihydrochloride | 6.30 g, 93% | Cl.Cl.C1(CC1)N1CCNCC1 | InChI=1S/C7H14N2.2ClH/c1-2-7(1)9-5-3-8-4-6-9;;/h7-8H,1-6H2;2*1H
